US08084620B2
A solution of 3-bromo-2-methylaniline (2.00 g, 10.75 mmol) in DCM (20 mL) was treated with TEA (3.00 mL, 21.50 mmol) and then with a solution of 4-bromobutanoyl chloride (2.392 g, 12.90 mmol) in DCM (10 mL), and the resulting mixture was stirred at rt. After 2.5 h, the mixture was diluted with DCM, washed with NaHCO3 (aq) and water, and dried and concentrated. The residue was dissolved in THF (20 mL) and treated with hexane-washed sodium hydride (60% oil dispersion, 0.860 g, 21.50 mmol). The mixture was stirred at rt for 1.5 h, then was concentrated. The residue was dissolved in DCM, washed with water, 1 M hydrochloric acid and brine, and dried and concentrated. The residue was purified by column chromatography (eluting with a gradient from 80:20 hexane-EtOAc to EtOAc) to provide N-(3-bromo-2-methylphenyl)cyclopropanecarboxamide (900 mg, 33%) as a white solid. Mass spectrum m/z 254, 256 (M+H)+.

reactant | 3-bromo-2-methylaniline | 10.75 mmol, 2.00 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | 4-bromobutanoyl chloride | 12.90 mmol, 2.392 g | BrCCCC(=O)Cl | C4H6BrClO
reactant | sodium hydride | 21.50 mmol, 0.860 g | [H-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-bromo-2-methylphenyl)cyclopropanecarboxamide | 900 mg, 33% | BrC=1C(=C(C=CC1)NC(=O)C1CC1)C | C11H12BrNO
